US08222249B2
To a CH3CN solution of 1-iodo-4-nitrobenzene (498 mg, 2 mmol) and 4-vinylpyridine (262 mg, 2.5 mmol) was added TEA (350 μL, 2.5 mmol) and Pd(OAc)2 (0.45 mg, 0.2 mmol). The mixture was heated to 100° C. for 48 hr in a capped Pyrex tube. It was then cooled to room temperature, quenched with 1N HCl (20 mL) and concentrated under reduced pressure. The mixture was filtered and the solid was taken up in EtOAc (30 mL) and washed with 1N NaOH (30 mL). The organic layer was concentrated, dried over Na2SO4 and concentrated to give 4-[2-(4-nitro-phenyl)-vinyl]-pyridine as yellow solid (160 mg, 37%).

reactant | 1-iodo-4-nitrobenzene | 2 mmol, 498 mg | IC1=CC=C(C=C1)[N+](=O)[O-] | C6H4INO2
reactant | 4-vinylpyridine | 2.5 mmol, 262 mg | C(=C)C1=CC=NC=C1 | C7H7N
catalyst | Pd(OAc)2 | 0.2 mmol, 0.45 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | CH3CN | CC#N | C2H3N
product | 4-[2-(4-nitro-phenyl)-vinyl]-pyridine | 160 mg, 37% | [N+](=O)([O-])C1=CC=C(C=C1)C=CC1=CC=NC=C1 | C13H10N2O2
